US06806282B2
A solution of 37.17 g (145 mmol) of (S)-2-amino-3-methyl-1,1-diphenylbutan-1-ol in 180 ml of tetrahydrofuran is stirred at −40° C. and 285 ml of a 1M solution of borane-tetrahydrofuran complex (285 mmol) are slowly added. The mixture is stirred for three hours from −40° C. to ambient temperature and is then cooled to −10° C., and a solution of 17 g (57 mmol) of compound 3.1 is added. The reaction mixture is stirred for twenty hours at ambient temperature and is then cooled to −10° C., and 285 ml of 2N hydrochloric acid are added. The mixture is left to stir for twenty hours and then the tetrahydrofuran is evaporated under reduced pressure. An (S)-2-amino-3-methyl-1,1-diphenylbutan-1-ol hydrochloride precipitate is formed and is filtered off and rinsed with 1N hydrochloric acid. The combined acidic filtrates are washed with tert-butyl methyl ether, then cooled to 0° C. and basified slowly with a 35% aqueous sodium hydroxide solution. After extracting three times with dichloromethane, the combined organic phases are washed with water and then with water saturated with sodium chloride and dried over sodium sulphate, and the solvents are evaporated under reduced pressure. The residue is purified by chromatography on a column of silica gel (eluent: 95/5 (v/v) dichloromethane/methanol). 7.2 g of amine are obtained in oily form. Yield 47%. ee>98%.

reactant | (S)-2-amino-3-methyl-1,1-diphenylbutan-1-ol | 145 mmol, 37.17 g | N[C@H](C(O)(C1=CC=CC=C1)C1=CC=CC=C1)C(C)C | C17H21NO
reactant | hydrochloric acid | 2N, 285 ml | Cl | ClH
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
product | (S)-2-amino-3-methyl-1,1-diphenylbutan-1-ol hydrochloride | Cl.N[C@H](C(O)(C1=CC=CC=C1)C1=CC=CC=C1)C(C)C | InChI=1S/C17H21NO.ClH/c1-13(2)16(18)17(19,14-9-5-3-6-10-14)15-11-7-4-8-12-15;/h3-13,16,19H,18H2,1-2H3;1H/t16-;/m0./s1
